US04857656
Synthesis of p-dimethylsulfoniophenylacetate methylsulfate
In 30 ml of acetonitrile was dissolved 2.6 g of p-dimethylsulfoniophenol methylsulfate, and 0.8 ml of acetyl chloride and 1.4 ml of triethylamine were dropwise added thereto. The reaction mixture was filtered to remove the deposited triethylamine hydrochloride. The filtrate was concentrated under reduced pressure and the residue was crystallized by adding ether.

reactant | p-dimethylsulfoniophenol methylsulfate | 2.6 g | C[S+](C1=CC=C(C=C1)O)C.COS(=O)(=O)[O-]
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | p-dimethylsulfoniophenylacetate methylsulfate | COS(=O)(=O)[O-].C[S+](C1=CC=C(C=C1)CC(=O)O)C | InChI=1S/C10H12O2S.CH4O4S/c1-13(2)9-5-3-8(4-6-9)7-10(11)12;1-5-6(2,3)4/h3-6H,7H2,1-2H3;1H3,(H,2,3,4)
